US06962923B2
N-[4-(1,3-benzodioxol-5-yl)-3-methoxy-1-methyl-1H-pyrazol-5-yl]-4-isopropylbenzenesulfonamide
4-Isopropylbenzenesulfonyl chloride (176 mg) was added at room temperature under an atmosphere of nitrogen to a solution of 5-amino-4-(1,3-benzodioxol-5-yl)-3-methoxy-1-methyl-1H-pyrazole (Preparation 43) (100 mg) and dimethylaminopyridine (50 mg) in anhydrous pyridine (4 ml). The reaction was stirred overnight. The mixture was concentrated under reduced pressure, then a saturated solution of ammonium chloride (6 ml), ethyl acetate (6 ml), and brine (6 ml) were sequentially added. The aqueous phase was extracted with ethyl acetate (2*8 ml) and the combined organic fractions were washed with brine (10 ml), dried over sodium sulfate and concentrated under reduced pressure. The residue was purified to yield the title compound (11.9 mg).

reactant | 4-Isopropylbenzenesulfonyl chloride | 176 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | 5-amino-4-(1,3-benzodioxol-5-yl)-3-methoxy-1-methyl-1H-pyrazole | 100 mg | NC1=C(C(=NN1C)OC)C1=CC2=C(OCO2)C=C1 | C12H13N3O3
reactant | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(1,3-benzodioxol-5-yl)-3-methoxy-1-methyl-1H-pyrazol-5-yl]-4-isopropylbenzenesulfonamide | 11.9 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C2=CC=C(C=C2)C(C)C)C)OC | C21H23N3O5S
